US04243406
Hydroxylamine hydrochloride (0.7 g.; 0.01 mol.) was added to a mixture of ethyl-2-(3',4'-dichlorobenzoyl)-3-di-methylaminopropenoate (3.16 g.; 0.01 mol.) and sodium acetate (0.82 g.; 0.01 mol.) in 25 ml. of diethyl ether and 15 ml. of methanol. The resultant mixture was stirred at 25° C. for 16 hours until the reaction was complete. The reaction mixture was filtered and concentrated in vacuo. The residue was dissolved in chloroform, extracted with water, dried over magnesium sulfate and concentrated in vacuo. Recrystallization with ethanol yielded ethyl-5-(3',4'-dichlorophenyl)-4-isoxazolecarboxylate as a white solid (1.5 g.; 52.4% yield) having a melting point of 108°-110° C. and the following analysis:

reactant | Hydroxylamine hydrochloride | 0.01 mol, 0.7 g | Cl.NO
reactant | ethyl-2-(3',4'-dichlorobenzoyl)-3-di-methylaminopropenoate | 0.01 mol, 3.16 g | C(C)OC(C(=CN(C)C)C(C1=CC(=C(C=C1)Cl)Cl)=O)=O | C14H15Cl2NO3
reactant | sodium acetate | 0.01 mol, 0.82 g | C(C)(=O)[O-].[Na+]
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | methanol | CO | CH4O
product | ethyl-5-(3',4'-dichlorophenyl)-4-isoxazolecarboxylate | 52.4% yield | C(C)OC(=O)C=1C=NOC1C1=CC(=C(C=C1)Cl)Cl | C12H9Cl2NO3
